US04954508
4,7-dihydro-1,6-dimethyl-3-phenyl-4-(2-methylphenyl)-1H-pyrazolo[3,4-b]pyridin-5-carboxylic acid ethyl ester, hydrochloride.
Ethyl-2-(2-methylbenzyliden)acetoacetate (0.050 mol) is added to 1-methyl-3-phenyl-5-pyrazolamine (0.050 mol) in ethanol (50 ml) and refluxed for 90 minutes. The mixture is then cooled to room temperature, further ethyl-2-(2-methylbenzyliden)acetoacetate (0.050 mol) is added thereto, and the mixture refluxed for further 90 minutes. The reaction mixture is then cooled, the solvent is evaporated, and the residue is taken up in ethyl ether, collected by filtration, and dried. The product is dissolved in methanol and a mixture of hydrochloric acid and methanol (45 mmol of HCl) is added thereto. The product of the title precipitates by adding ethyl ether. M.p. 187° C. (dec.).

reactant | Ethyl-2-(2-methylbenzyliden)acetoacetate | 0.050 mol | C(C)OC(C(C(=O)C)=CC1=C(C=CC=C1)C)=O | C14H16O3
reactant | 1-methyl-3-phenyl-5-pyrazolamine | 0.050 mol | CN1N=C(C=C1N)C1=CC=CC=C1 | C10H11N3
reactant | ethyl-2-(2-methylbenzyliden)acetoacetate | 0.050 mol | C(C)OC(C(C(=O)C)=CC1=C(C=CC=C1)C)=O | C14H16O3
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | 45 mmol | CO | CH4O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4,7-dihydro-1,6-dimethyl-3-phenyl-4-(2-methylphenyl)-1H-pyrazolo[3,4-b]pyridin-5-carboxylic acid ethyl ester, hydrochloride | Cl.C(C)OC(=O)C=1C(C2=C(NC1C)N(N=C2C2=CC=CC=C2)C)C2=C(C=CC=C2)C | InChI=1S/C24H25N3O2.ClH/c1-5-29-24(28)19-16(3)25-23-21(20(19)18-14-10-9-11-15(18)2)22(26-27(23)4)17-12-7-6-8-13-17;/h6-14,20,25H,5H2,1-4H3;1H
